US06995176B2
Preparation of 2-(Phenylsulfonylmethyl)aniline
A stirred mixture of 2-(phenylsulfonylmethyl)-1-nitrobenzene (5.55 g, 20.0 mmol) and granular tin (10.4 g, 88 mmol) in methanol and concentrated HCl (60 mL) is stirred under nitrogen at 45° C. for 5 h, cooled to ambient temperature over an 18 h period, poured onto NaHCO3 (80 g) with stirring, treated with water and extracted with ethyl acetate. The combined extracts are washed with brine (2×100 mL), dried over MgSO4, and concentrated in vacuo to afford the title product as an off-white solid, 4.41 g (89%) mp 175–176° C., identified by HNMR and mass spectral analyses.

reactant | 2-(phenylsulfonylmethyl)-1-nitrobenzene | 20.0 mmol, 5.55 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO4S
reactant | tin | 88 mmol, 10.4 g | [Sn] | Sn
reactant | water | O | H2O
solvent | methanol | CO | CH4O
solvent | HCl | 60 mL | Cl | ClH
product | 2-(Phenylsulfonylmethyl)aniline | C1(=CC=CC=C1)S(=O)(=O)CC1=C(N)C=CC=C1 | C13H13NO2S
